US08470847B2
7.1.1: N-Methoxy-N-methyl-2-methoxyacetamide
35.96 ml of triethylamine (258 mmol), followed by a solution of 14 g of methoxyacetyl chloride (Aldrich, 129 mmol) in 250 ml of dichloromethane, are added to a solution of N-methyl-O-methylhydroxylamine hydrochloride in 250 ml of dichloromethane cooled to 0° C. The mixture is stirred for 3 hours while allowing it to return to ambient temperature. A 1N solution of HClaq is added and then the organic phase is washed with water, dried over sodium sulphate, filtered, and concentrated under vacuum. 13.14 g of expected product are obtained in the form of an oil which is used without subsequent purification (crude yield=76%).

reactant | triethylamine | 258 mmol, 35.96 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 129 mmol, 14 g | COCC(=O)Cl | C3H5ClO2
reactant | N-methyl-O-methylhydroxylamine hydrochloride | Cl.CNOC
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-2-methoxyacetamide | 13.14 g | CON(C(COC)=O)C | C5H11NO3
